Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
prolonged and progressively severe disorder of leg pain with 
walking
 
Major Surgical or Invasive Procedure:
L4-5 spondylithesis w/ stenosis now s/p L4-5 laminectomy and 
instrumented fusion 

 
History of Present Illness:
___ is a ___ active female who presented 
with a prolonged and progressively severe disorder of neurogenic 
claudication, unrelated to rather severe stenosis at L4-L5 and 
L5-S1 segments where she also exhibited instability at L4-L5 
with spondylolisthesis. She underwent a prolonged and multimodal 
course of conservative care without significant or lasting 
relief.  In this setting, she would like to undergo surgical 
treatment with the goal of halting the progression of her 
neurological decline and also improving her tolerance for 
standing and walking in particular.

 
Past Medical History:
COLON POLYP
DIARRHEA
DIVERTICULOSIS
SIBO
OSTEOPENIA
HYPOTHYROIDISM
DYSPHONIA
H/O CERVICAL CANCER
H/O TOBACCO ABUSE
CATARACT SURGERY
CERVICAL CONE BIOPSY
FOOT SURGERY
 
Social History:
Social History  Last Updated: ___ 
Marital status:
Married
Children:
No
Lives with:
___
Work:
___
Tobacco use:
Former smoker
Depression:
Based on a PHQ-2 evaluation, the patient does not report 
symptoms of depression
 

Comments:
1 cup coffee w/ caffeine, 2 cups decaff, ___ cups of tea 
caff/decaff
 
Family History:
Mother
OVARY CANCER

Father
ATHEROSCLEROSIS

MGM
OSTEOPOROSIS

MGF
CARDIOMEGALY

Sister
BREAST CANCER
 
HYPERTENSION
 
Physical Exam:
PE: 
VS ___ 2312 Temp: 98.4 PO BP: 129/74 L Lying HR: 75 RR: 18
O2 sat: 94% O2 delivery: Ra 

NAD, A&Ox4
nl resp effort
RRR
dressing c/d/I
hemovac output 50 cc
  
___    
     L2     L3      L4         L5        S1          S2
   (Groin) (Knee) (Med Calf) (Grt Toe) (Sm Toe) (Post Thigh)
R    SILT   SILT    SILT       SILT     SILT       SILT 
L    SILT   SILT    SILT       SILT     SILT       SILT 

Motor:
___  Flex(L1) Add(L2) Quad(L3)  TA(L4) ___ ___
R      5       5       5         5      5      5         5      
L      5       5       5         5      5      5         5

 
Pertinent Results:
___ 07:10AM BLOOD WBC-10.3* RBC-2.90* Hgb-8.3* Hct-25.4* 
MCV-88 MCH-28.6 MCHC-32.7 RDW-13.6 RDWSD-43.3 Plt ___
___ 07:32AM BLOOD WBC-10.6* RBC-2.99* Hgb-8.6* Hct-26.3* 
MCV-88 MCH-28.8 MCHC-32.7 RDW-13.6 RDWSD-43.1 Plt ___
___ 07:10AM BLOOD Plt ___
___ 07:32AM BLOOD Plt ___
___ 07:10AM BLOOD Glucose-109* UreaN-17 Creat-0.8 Na-141 
K-4.0 Cl-105 HCO3-25 AnGap-11
___ 07:32AM BLOOD Glucose-117* UreaN-15 Creat-0.9 Na-144 
K-4.3 Cl-109* HCO3-27 AnGap-8*
___ 07:10AM BLOOD Calcium-8.7 Phos-3.2 Mg-1.9
___ 07:32AM BLOOD Calcium-8.7 Phos-2.9 Mg-1.8
 
Brief Hospital Course:
Patient was admitted to the ___ Spine Surgery Service and 
taken to the Operating Room for the above procedure.Refer to the 
dictated operative note for further details.The surgery was 
without complication and the patient was transferred to the PACU 
in a stable ___ were used for postoperative 
DVT prophylaxis.Intravenous antibiotics were continued for 24hrs 
postop per standard protocol.Initial postop pain was controlled 
with oral and IV pain medication.Diet was advanced as 
tolerated.Foley was removed on POD#2. Physical therapy and 
Occupational therapy were consulted for mobilization OOB to 
ambulate and ADL's.Hospital course was otherwise unremarkable.On 
the day of discharge the patient was afebrile with stable vital 
signs, comfortable on oral pain control and tolerating a regular 
diet.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Enalapril Maleate 20 mg PO DAILY 
2. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
3. Aspirin 81 mg PO 3X/WEEK (___) 
4. Sertraline 100 mg PO DAILY 
5. Hydrochlorothiazide 12.5 mg PO DAILY 
6. Levothyroxine Sodium 100 mcg PO DAILY 
7. Albuterol Inhaler 1 PUFF IH Q6H:PRN wheezing 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H 
may take over the counter  
2.  Diazepam 5 mg PO BID:PRN pain 
may cause drowsiness 
RX *diazepam 5 mg 1 tablet by mouth twice a day Disp #*20 Tablet 
Refills:*0 
3.  Docusate Sodium 100 mg PO BID 
please take while taking narcotic pain medication.  
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice a day Disp 
#*20 Tablet Refills:*0 
4.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate 
please do not operate heavy machinery, drink alcohol or drive 
RX *oxycodone 5 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*40 Tablet Refills:*0 
5.  Albuterol Inhaler 1 PUFF IH Q6H:PRN wheezing  
6.  Aspirin 81 mg PO 3X/WEEK (___)  
7.  Enalapril Maleate 20 mg PO DAILY  
8.  Hydrochlorothiazide 12.5 mg PO DAILY  
9.  Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS  
10.  Levothyroxine Sodium 100 mcg PO DAILY  
11.  Multivitamins 1 TAB PO DAILY  
12.  Sertraline 100 mg PO DAILY  
13.  Vitamin D 1000 UNIT PO DAILY  
14.Rolling Walker
Dx: Lumbar Stenosis
Px: Good
___: 13 Months

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___ Diagnosis:
1.  Lumbar spinal stenosis L4-L5, L5-S1.
3. Spondylolisthesis L4-L5.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Lumbar Decompression With Fusion:
You have undergone the following operation: Lumbar Decompression 
With Fusion
Immediately after the operation:
•                Activity:You should not lift anything greater 
than 10 lbs for 2 weeks.You will be more comfortable if you do 
not sit or stand more than~45 minutes without getting up and 
walking around.
•                Rehabilitation/ Physical ___ times a 
day you should go for a walk for ___ minutes as part of your 
recovery.You can walk as much as you can tolerate.Limit any kind 
of lifting.
•                Diet: Eat a normal healthy diet.You may have 
some constipation after surgery.You have been given medication 
to help with this issue.
•                Brace:You may have been given a brace.If you 
have been given a brace,this brace is to be worn when you are 
walking.You may take it off when sitting in a chair or while 
lying in bed.
•                Wound Care:Remove the dressing in 2 days.If the 
incision is draining cover it with a new sterile dressing.If it 
is dry then you can leave the incision open to the air.Once the 
incision is completely dry (usually ___ days after the 
operation) you may take a shower.Do not soak the incision in a 
bath or pool.If the incision starts draining at anytime after 
surgery, do not get the incision wet.Cover it with a sterile 
dressing.Call the office.
•                You should resume taking your normal home 
medications.
•                You have also been given Additional Medications 
to control your pain.Please allow 72 hours for refill of 
narcotic prescriptions,so please plan ahead.You can either have 
them mailed to your home or pick them up at the clinic located 
on ___.We are not allowed to call in or fax narcotic 
prescriptions(oxycontin,oxycodone,percocet) to your pharmacy.In 
addition,we are only allowed to write for pain medications for 
90 days from the date of surgery.
Follow up:
               Please Call the office and make an appointment 
for 2 weeks after the day of your operation if this has not been 
done already.
                At the 2-week visit we will check your 
incision,take baseline X-rays and answer any questions.We may at 
that time start physical therapy
                We will then see you at 6 weeks from the day of 
the operation and at that time release you to full activity.
Please call the office if you have a fever>101.5 degrees 
Fahrenheit and/or drainage from your wound.
Physical Therapy:
1)Weight bearing as tolerated.2)Gait,balance training.3)No 
lifting >10 lbs.4)No significant bending/twisting. 
Treatments Frequency:
Please keep the incision covered with a dry dressing on until 
your follow up appointment. 
 
Followup Instructions:
___